US07211573B2
b) (S)-3-(2-Amino-6-chloro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid
In an analogous manner to that described in example 5b), the hydrogenation of (S)-2-tert-butoxycarbonylamino-3-(2-chloro-6-nitro-phenoxy)-propionic acid benzyl ester using Raney-nickel instead of palladium as the catalyst yielded (91%) the title compound as a light brown foam, MS m/e (%): 329.3 (M−H+, 100).

reactant | (S)-2-tert-butoxycarbonylamino-3-(2-chloro-6-nitro-phenoxy)-propionic acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](COC1=C(C=CC=C1[N+](=O)[O-])Cl)NC(=O)OC(C)(C)C)=O | C21H23ClN2O7
catalyst | Raney-nickel | [Ni] | Ni
product | (S)-3-(2-Amino-6-chloro-phenoxy)-2-tert-butoxycarbonylamino-propionic acid | 91% | NC1=C(OC[C@@H](C(=O)O)NC(=O)OC(C)(C)C)C(=CC=C1)Cl | C14H19ClN2O5
